US07659245B2
2-Amino-4-methoxy-3-methylbenzoic acid methyl ester (81)
To a solution of 2-amino-4-methoxy-3-methyl benzoic acid (3.1 g, 17.1 mmol) in dry DMF (40 ml) was added potassium carbonate (2.4 g, 17.1 mmol) and the mixture was stirred at room temperature for 30 minutes. Methyl iodide (3.1 g, 22 mmol) was added and the mixture was stirred for three hours at room temperature. A 5% aqueous solution of citric acid was added and the mixture was extracted three times with ethyl acetate. The organic phase was washed with water, dried with sodium sulfate and evaporated under reduced pressure. The product was isolated by column chromatography on silica gel eluted with hexane-ethyl acetate which gave the title compound (2.75 g).

reactant | 2-amino-4-methoxy-3-methyl benzoic acid | 17.1 mmol, 3.1 g | NC1=C(C(=O)O)C=CC(=C1C)OC | C9H11NO3
reactant | potassium carbonate | 17.1 mmol, 2.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | Methyl iodide | 22 mmol, 3.1 g | CI | CH3I
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | 2-Amino-4-methoxy-3-methylbenzoic acid methyl ester | 2.75 g | COC(C1=C(C(=C(C=C1)OC)C)N)=O | C10H13NO3
